US08003640B2
{(3S,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-3-yl}-methanol
4.30 mmol of NaOH are added to a solution of 1.05 mmol of (3R,4R,5S)-4-(4-methoxycarbonyl-phenyl)-3-[4-(3-methoxy-propyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-5-triisopropylsilanyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester in 10 ml of THF and 10 ml of H2O. The resulting reaction mixture is stirred at 90° C. for 16 h and then cooled to RT. After dilution with H2O and acidification (pH 3) with 4N aqueous HCl, the mixture is extracted with TBME (2×)—the combined organic phases are washed with brine, dried over Na2SO4 and concentrated by evaporation. The crude title compound is obtained as a viscous brown oil. Rf=0.24 (EtOAc/heptane 2:1+a drop of formic acid); Rt=6.71 (gradient I).

reactant | NaOH | 4.30 mmol | [OH-].[Na+]
reactant | (3R,4R,5S)-4-(4-methoxycarbonyl-phenyl)-3-[4-(3-methoxy-propyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-5-triisopropylsilanyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.05 mmol | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)CO[Si](C(C)C)(C(C)C)C(C)C)C1=CC=C(C=C1)C(=O)OC)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C41H62N2O9Si
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 10 ml | O | H2O
product | {(3S,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-3-yl}-methanol | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@H]1[C@@H](CNC[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)CO)C | C31H46N2O6
